US07741327B2
A mixture of 3-(2,6-dichloro-phenyl)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (56 mg, 0.13 mmol) in a 1:1 solution of tetrahydrofuran:water (4 mL) was treated with lithium hydroxide monohydrate (11 mg, 0.26 mmol). The mixture was then stirred for 1 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran and then diluted with 1N aqueous hydrochloric acid until the pH was acidic and then extracted with ethyl acetate. The organic layers were dried over sodium sulfate and concentrated in vacuo to afford 3-(2,6-dichloro-phenyl)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid (40 mg, 74%) as a tan solid: HR-ES-MS m/z calculated for C19H13NO4Cl2F2 [M+H]+ 428.0263, observed 428.0263.

reactant | 3-(2,6-dichloro-phenyl)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 0.13 mmol, 56 mg | COC(C(CC1=C(C=CC=C1Cl)Cl)N1C(C=C(C1)OC1=C(C=CC=C1F)F)=O)=O | C20H15Cl2F2NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.26 mmol, 11 mg | O.[OH-].[Li+]
solvent | water | 4 mL | O | H2O
product | 3-(2,6-dichloro-phenyl)-2-[4-(2,6-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid | 40 mg, 74% | ClC1=C(C(=CC=C1)Cl)CC(C(=O)O)N1C(C=C(C1)OC1=C(C=CC=C1F)F)=O | C19H13Cl2F2NO4
